US07462624B2
Step C: 4-pentyl-8-phenyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one
N-pentyl-5-(3-phenyl-1H-1,2,4-triazol-5-yl)-1H-imidazol-4-amine (50 mg, 0.17 mmol) and N,N-carbonyldiimidazole (50 mg, 0.3 mmol) were dissolved in THF (10 mL) and stirred at 70° C. for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by preparative LCMS (method B) to yield the desired product (25 mg, 45% yield). LCMS calculated for C17H19N6O (M+H): 323.2; found 323.1.

reactant | N-pentyl-5-(3-phenyl-1H-1,2,4-triazol-5-yl)-1H-imidazol-4-amine | 0.17 mmol, 50 mg | C(CCCC)NC=1N=CNC1C1=NC(=NN1)C1=CC=CC=C1 | C16H20N6
reactant | N,N-carbonyldiimidazole | 0.3 mmol, 50 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-pentyl-8-phenyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one | 25 mg, 45% yield | C(CCCC)N1C(N2C(C=3NC=NC13)=NC(=N2)C2=CC=CC=C2)=O | C17H18N6O
